US08937071B2
To a mixture of diisopropylamine (8.00 mL, 57.1 mmol) in THF (300 mL) cooled to 0° C. was added n-BuLi (24.60 mL, 61.5 mmol) dropwise. The mixture was stirred at 0° C. for 1 h. Then to the mixture cooled to −30° C. was added a solution of ethyl isobutyrate (6.12 g, 52.7 mmol) in THF (2 mL). The mixture was stirred at −30° C. for 1 h. To the mixture was added a solution of 1-(bromomethyl)-2-(trifluoromethyl)benzene (10.5 g, 43.9 mmol) in THF (5 mL) at −30° C. The whole mixture was stirred at −30° C. for 3 h and then stirred at 25° C. for 12 h. The mixture was quenched with NH4Cl (aq) and extracted with EA. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified on silica column chromatography (PE/EA=200:1). All fractions found to contain product by TLC (PE/EA=10:1, Rf=0.6) were combined and concentrated to yield a light yellow solid of ethyl 2,2-dimethyl-3-(2-(trifluoromethyl)phenyl)propanoate (10 g, 35.3 mmol, 80.0% yield): 1H NMR (400 MHz, CDCl3) δ: 7.62 (d, J=8.0 Hz, 1H), 7.41 (t, J=7.6 Hz, 1H), 7.29 (t, J=7.6 Hz, 1H), 7.22 (d, J=8.0 Hz, 1H), 4.17 (q, J=7.2 Hz, 2H), 3.14 (s, 3H), 1.25 (t, J=7.2 Hz, 3H), 1.18 (s, 6H); ES-LCMS m/z 275 (M+H).

reactant | diisopropylamine | 57.1 mmol, 8.00 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 61.5 mmol, 24.60 mL | [Li]CCCC
reactant | ethyl isobutyrate | 52.7 mmol, 6.12 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | 1-(bromomethyl)-2-(trifluoromethyl)benzene | 43.9 mmol, 10.5 g | BrCC1=C(C=CC=C1)C(F)(F)F | C8H6BrF3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 2,2-dimethyl-3-(2-(trifluoromethyl)phenyl)propanoate | 35.3 mmol, 10 g, 80.0% yield | CC(C(=O)OCC)(CC1=C(C=CC=C1)C(F)(F)F)C | C14H17F3O2
